US06225316B1
c) 5-Bromo-N-methyl-2-(4-methyl-piperazin-1-yl)-isonicotinamide
A solution of 1.45 g (5.8 mmol) 5-bromo-2-(4-methyl-piperazin-1-yl)-isonicotinic acid ethyl ester in 25 ml methylamin (33% in ethanol) was heated in a high pressure vessel at 85° for 12 h. Evaporation of the solvent afforded 1.81 g (100%) of the title compound as yellow crystals. M.p. 122-125° C.

reactant | 5-bromo-2-(4-methyl-piperazin-1-yl)-isonicotinic acid ethyl ester | 5.8 mmol, 1.45 g | C(C)OC(C1=CC(=NC=C1Br)N1CCN(CC1)C)=O | C13H18BrN3O2
reactant | methylamin | 25 ml | CN | CH5N
product | 5-Bromo-N-methyl-2-(4-methyl-piperazin-1-yl)-isonicotinamide | 1.81 g, 100% | BrC1=CN=C(C=C1C(=O)NC)N1CCN(CC1)C | C12H17BrN4O
